US06812235B2
To a solution of ethyl N-(tert-butoxycarbonyl)-1,2,3,6,7,8-hexahydroazocine-7-carboxylate (167 mg, 0.59 mmol) in ethyl acetate (4 mL) was added 4N solution of HCl in ethyl acetate (2 mL). After the mixture was stirred for 3 hours, the solvent was evaporated in vacuo. The residue was dissolved in a mixture of water and ethyl acetate, then the mixture was adjusted to pH 9 with a saturated aqueous K2CO3 solution. The organic layer was separated and dried over Na2SO4, and evaporated in vacuo to give ethyl 1,2,3,6,7,8-hexahydroazocine-7-carboxylate (81 mg, 0.44 mmol, 74.6%) as a colourless oil.

reactant | ethyl N-(tert-butoxycarbonyl)-1,2,3,6,7,8-hexahydroazocine-7-carboxylate | 0.59 mmol, 167 mg | C(C)(C)(C)OC(=O)N1CCC=CCC(C1)C(=O)OCC | C15H25NO4
reactant | HCl | Cl | ClH
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 1,2,3,6,7,8-hexahydroazocine-7-carboxylate | 0.44 mmol, 81 mg, 74.6% | N1CCC=CCC(C1)C(=O)OCC | C10H17NO2
